US05589506
A mixture of 3,4-dimethyoxyphenylacetonitrile (1.77 g, 10.0 mmol, purchased from Tokyo Kasei,) and 2-naphthoaldehyde (1.56 g, 10.0 mmol, purchased from Tokyo Kasei) in 30 ml of ethanol was heated to dissolve. Two drops of 20% aqueous sodium hydroxide solution was then added and the reaction mixture was stirred over night. The precipitate was collected and washed with ethanol then with hexane, and dried to give 2.60 g (yield: 82.5%) of α-(3,4-dimethoxyphenyl-β-(naphthalen-2-yl)acrylonitrile as a yellow crystalline.

reactant | 3,4-dimethyoxyphenylacetonitrile | 10.0 mmol, 1.77 g | COC=1C=C(C=CC1OC)CC#N | C10H11NO2
reactant | 2-naphthoaldehyde | 10.0 mmol, 1.56 g | C1=C(C=CC2=CC=CC=C12)C=O | C11H8O
solvent | ethanol | 30 ml | C(C)O | C2H6O
catalyst | sodium hydroxide | Two drops | [OH-].[Na+]
product | 3,4-dimethoxyphenyl-β-(naphthalen-2-yl)acrylonitrile | yield: 82.5% | COC=1C=C(C=CC1OC)C(C#N)=CC1=CC2=CC=CC=C2C=C1 | C21H17NO2
